US05998463
EXAMPLE 3 5-Acetyl-1-ethyl-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid [3-(4-chlorophenylcarbamoyl)-phenyl]-amide.
Prepared as in Example 1 from 1-ethyl-5-(2-methyl-[1,3]dioxolan-2-yl)-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid methyl ester and 3-amino-N-(4-chloro-phenyl)-benzamide. Recrystallized from ethyl acetate-hexanes. mp 119-121° C.

reactant | 1-ethyl-5-(2-methyl-[1,3]dioxolan-2-yl)-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid methyl ester | COC(=O)C1C(N(C2=CC=C(C=C12)C1(OCCO1)C)CC)=O | C16H19NO5
reactant | 3-amino-N-(4-chloro-phenyl)-benzamide | NC=1C=C(C(=O)NC2=CC=C(C=C2)Cl)C=CC1 | C13H11ClN2O
product | 5-Acetyl-1-ethyl-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid [3-(4-chlorophenylcarbamoyl)-phenyl]-amide | ClC1=CC=C(C=C1)NC(=O)C=1C=C(C=CC1)NC(=O)C1C(N(C2=CC=C(C=C12)C(C)=O)CC)=O | C26H22ClN3O4
